US07084139B2
tert-Butyl (2R)-2-(3-azido-2-oxopyrrolidin-1-yl)propanoate
To a solution of D-alanine tert-butylester (1.28 g) and N,N-diisopropylethyamine (1.22 ml) in acetonitrile (15 ml), was added a solution of ethyl 2-azido-4-bromobutanoate (1 g) and sodium iodide (0.02 g) in acetonitrile (5 ml). The mixture was heated at 60° C. for 60 h and then concentrated under pressure to give a brown oil. This oil was partitioned between DCM and water. The separated organic layer was washed further with water and dried (over magnesium sulphate), and concentrated under reduced pressure. The residual brown oil was purified using Biotage™ chromatography (silica, eluting with cyclohexane;ethyl acetate 3:1) to give the title compound (0.204 g) as a mixture of two diastereoisomers.

reactant | D-alanine tert-butylester | 1.28 g | C(C)(C)(C)OC([C@H](N)C)=O | C7H15NO2
reactant | N,N-diisopropylethyamine | 1.22 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl 2-azido-4-bromobutanoate | 1 g | N(=[N+]=[N-])C(C(=O)OCC)CCBr | C6H10BrN3O2
reactant | sodium iodide | 0.02 g | [I-].[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | tert-Butyl (2R)-2-(3-azido-2-oxopyrrolidin-1-yl)propanoate | 0.204 g | N(=[N+]=[N-])C1C(N(CC1)[C@@H](C(=O)OC(C)(C)C)C)=O | C11H18N4O3
